2159-09-05 10:54:00 Physician Attending Progress Note
Chief Complaint: anoxic brain injury
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   63M with ESRD, admitted with R thalimic bleed, with hospital course c/b
   PEA arrested followed by anoxic ischemic brain injury, now with deep
   coma and only preserved brainstem reflex is breathing:
   24 Hour Events:
   -family meeting yesterday; pt remains full code but family understands
   poor prognosis
   -neuro exam unchanged this am
   -hypotension responding to fluid boluses
   -stool output remains high
   -cultures negative
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftazidime - [**2159-9-4**] 04:40 PM
   Vancomycin - [**2159-9-4**] 11:00 PM
   Metronidazole - [**2159-9-5**] 09:45 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2159-9-5**] 08:25 AM
   Other medications:
   ctz, flagyl, vanco po, vanco iv, riss, famotidine, keppra stopped this
   am per neuro
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO, Tube feeds
   Respiratory: No(t) Tachypnea
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2159-9-5**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.5
C (95.9
   HR: 66 (61 - 68) bpm
   BP: 104/49(66) {82/45(56) - 135/64(86)} mmHg
   RR: 12 (5 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.5 kg (admission): 65.9 kg
   Height: 71 Inch
   CVP: 7 (4 - 13)mmHg
   Total In:
                                                                 12,943 mL
                                                                  2,129 mL
   PO:
   TF:
   IVF:
                                                                 12,633 mL
                                                                  1,859 mL
   Blood products:
   Total out:
                                                                  3,700 mL
                                                                  2,050 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,243 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.49/30/104/24/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   148 K/uL
   72 mg/dL
   5.5 mg/dL
   24 mEq/L
   3.8 mEq/L
   52 mg/dL
   111 mEq/L
   141 mEq/L
   28.1 %
   8.2 K/uL
        [image002.jpg]
                             [**2159-9-3**]  01:45 PM
                             [**2159-9-3**]  02:10 PM
                             [**2159-9-3**]  04:40 PM
                             [**2159-9-3**]  09:51 PM
                             [**2159-9-3**]  10:06 PM
                             [**2159-9-4**]  02:43 AM
                             [**2159-9-4**]  08:35 AM
                             [**2159-9-4**]  02:14 PM
                             [**2159-9-4**]  03:24 PM
                             [**2159-9-5**]  03:57 AM
   WBC
   8.3
   7.1
   8.5
   7.9
   7.6
   8.2
   Hct
   26.5
   29.4
   26.9
   28.1
   28.1
   28.1
   Plt
   163
   182
   158
   170
   142
   148
   Cr
   3.9
   4.9
   4.9
   5.0
   5.3
   5.2
   4.9
   5.5
   TropT
   0.51
   TCO2
   23
   23
   Glucose
   195
   140
   107
   80
   83
   141
   79
   72
   Other labs: PT / PTT / INR:12.3/36.8/1.0, CK / CKMB /
   Troponin-T:142/8/0.51, ALT / AST:[**10/2136**], Alk Phos / T Bili:58/0.3,
   Differential-Neuts:89.5 %, Lymph:7.4 %, Mono:2.3 %, Eos:0.5 %, Lactic
   Acid:1.4 mmol/L, Albumin:2.3 g/dL, LDH:264 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.7 mg/dL
   Imaging: HEAD CT: Significant amount of increased edema with effacement
   of the sulci and
   ventricles as well as concern for multiple herniations as described
   above with
   loss of [**Doctor Last Name **]-white matter differentiation.
   Microbiology: All cx negative
   Assessment and Plan
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 HYPOTHERMIA
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 INTRACEREBRAL HEMORRHAGE (ICH)
   63M with ESRD, admitted with R thalamic bleed, with hospital course c/b
   PEA arrest followed by anoxic ischemic brain injury, now in a deep coma
   with spontaneous respirations but without any other brainstem reflexes.
   Chances of meaningful neurological recovery were limited even prior to
   arrest; the new devastating neurological event lowers the likelihood of
   meaningful recovery closer to zero. It is difficult to imagine that any
   systemic infection or antiepileptic could be masking neurological
   status.
   Family meeting took place today with multiple family members present
   including his wife. Goals of care were addressed and family has decided
   to withdraw care. He will be transitioned to CMO. Organ bank has been
   contact[**Name (NI) **] and declined given his comorbidities.
   ICU Care
   Nutrition: restart tube feeds if residuals lower
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2159-9-3**] 01:51 PM
   Multi Lumen - [**2159-9-3**] 03:45 PM
   Arterial Line - [**2159-9-3**] 07:09 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill